US07163937B2
To a solution of (3R,4S)-1-tert-butyl 3-methyl 4-((S)-1-phenylethylamino)piperidine-1,3-dicarboxylate (47 g, 0.13 mol, See: S. S. Ko, et al, WO PCT 2002002525 for preparation of the enantiomer of this compound) in anhydrous ether (500 mL) at 0° C. was added 1M-LAH (100 mL, 0.1 mol) dropwise, and the mixture was stirred at 0˜15° C. for 3 h. The reaction was quenched with a portion-wise adition of Na2SO4.10H2O (excess) and stirring for 1 h at rt. It was filtered through Celite and the solvent was evaporated off to give (3R,4S)-tert-butyl 3-(hydroxymethyl)-4-((S)-1-phenylethylamino)piperidine-1-carboxylate (quantitative yield).

reactant | (3R,4S)-1-tert-butyl 3-methyl 4-((S)-1-phenylethylamino)piperidine-1,3-dicarboxylate | C1(=CC=CC=C1)[C@H](C)N[C@@H]1[C@@H](CN(CC1)C(=O)OC(C)(C)C)C(=O)OC | C20H30N2O4
reactant | LAH | 0.1 mol, 100 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | ether | 500 mL | CCOCC | C4H10O
product | (3R,4S)-tert-butyl 3-(hydroxymethyl)-4-((S)-1-phenylethylamino)piperidine-1-carboxylate | quantitative yield | OC[C@@H]1CN(CC[C@@H]1N[C@@H](C)C1=CC=CC=C1)C(=O)OC(C)(C)C | C19H30N2O3
